US07208629B2
d) Methyl 6′-methyl-3′-[(propylamino)carbonyl]-1,1′-biphenyl-4-carboxylate
4′-(Methoxycarbonyl)-6-methyl-1,1′-biphenyl-3-carboxylic acid (190 mg, 0.7 mmol) and oxalyl chloride (70 μl, 0.77 mol) in chloroform (4 ml) were stirred at room temperature for 15 min. Propylamine (200 μl) was added and stirring continued for 45 min. The reaction was quenched with water (4 ml), the phases separated and the organic phase passed through an aminopropyl SPE eluting with chloroform. After evaporation of the solvent this gave methyl 6′-methyl-3′-[(propylamino)carbonyl]1,1′-biphenyl-4-carboxylate (216 mg). LCMS: retention time 3.26 min, MH+312.

reactant | 4′-(Methoxycarbonyl)-6-methyl-1,1′-biphenyl-3-carboxylic acid | 0.7 mmol, 190 mg | COC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)C(=O)O | C16H14O4
reactant | oxalyl chloride | 0.77 mol, 70 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Propylamine | 200 μl | C(CC)N | C3H9N
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 6′-methyl-3′-[(propylamino)carbonyl]-1,1′-biphenyl-4-carboxylate | CC1=CC=C(C=C1C1=CC=C(C=C1)C(=O)OC)C(=O)NCCC | C19H21NO3
